US06828320B2
(4-Benzyloxy-phenyl)-(6-(trimethylsilylethynyl)quinazolin-4-yl)-amine
The (4-benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine hydrochloride (1.0 g, 2.04 mmol) was reacted with trimethylsilylacetylene (8.0 ml, 5.56 g, 5.66 mmol), triethylamine (5.0 ml, 3.63 g, 3.58 mmol), bis(triphenylphosphine)palladium (II) chloride (0.10 g, 0.14 mmol) and copper(I)iodide (0.10 g, 0.53 mmol) at room temperature in acetonitrile (15 ml) under a nitrogen atmosphere overnight. Purification by silica gel chromatography (eluting with 50% i-hexane/EtOAc) gave the title compound as an off-white solid (0.70 g, 1.65 mmol, 81%).

reactant | (4-benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine hydrochloride | 2.04 mmol, 1.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)I
reactant | trimethylsilylacetylene | 5.66 mmol, 8.0 ml, 5.56 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 3.58 mmol, 5.0 ml, 3.63 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.14 mmol, 0.10 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.53 mmol, 0.10 g | [Cu]I
product | (4-Benzyloxy-phenyl)-(6-(trimethylsilylethynyl)quinazolin-4-yl)-amine | 1.65 mmol, 0.70 g, 81% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C#C[Si](C)(C)C | C26H25N3OSi
